* source ECE351LAB5
R_Rl         N01231 0 8 
V_Vcc         N00261 0  DC 15
V_Vee         0 N00857  DC 15
Q_Q3         N05226 N00294 N01231 Q2N3906
C_C3         N02143 0 100u 
Q_Q7         N02557 N02645 N02567 TIP32
V_Vcc1         N02143 0  DC 15
V_Vee1         0 N02557  DC 15
R_R1         VOUT 0 8 
R_R2         N02339 VOUT 1 
R_R4         N02143 N02277 3.3k 
Q_Q9         N02143 N02313 N02339 TIP31
D_D5         N02277 N03570 D1N4001 
D_D6         N03570 N02429 D1N4001 
D_D7         N02429 N03574 D1N4001 
D_D8         N03574 N02641 D1N4001 
D_D11         N00401 N00290 D1N4001 
D_D12         N00290 N00294 D1N4001 
C_C4         0 N02557 100u 
R_R5         N02567 VOUT 1 
R_R6         N02557 N02641 3.3k 
Q_Q10         N00261 N00401 N01231 TIP31
Q_Q11         N01231 N05226 N00857 TIP31
I_I1         N00261 N00401 DC 50m
V_V2         N00294 0 
+SIN 0 10 1k 0 0 0
Q_Q15         N02557 N02641 N02645 Q2N3906
Q_Q16         N02143 N02277 N02313 Q2N3904
V_V1         N02429 0 
+SIN 0 10 1k 0 0 0
