* source ECE351HW5
R_R1         N00456 N00428 388k 
R_R2         N00452 N00428 388k 
Q_Q1         N00456 N00460 N00495 Qn1 
Q_Q2         N00452 N00477 N00495 Qn2 
V_V1         N00460 0 
+SIN 0 1 60 0 0 0
V_V2         N00477 0 
+SIN 0 1 60 0 0 0
I_I1         N00495 N00416 DC 49.5u
V_V3         N00428 0  DC 15
V_V4         0 N00416  DC 15
V_V8         N01160 0 
+SIN 0 1 60 0 0 0
R_R3         N01054 N00972 388k 
Q_Q3         N01054 N01476 N01184 Qn1 
R_R4         N01060 N00972 388k 
V_V7         N01144 0 
+SIN 0 1 60 0 0 0
V_V5         N00972 0  DC 15
V_V6         0 N01192  DC 15
I_I2         N01184 N01192 DC 49u
Q_Q4         N01060 N01463 N01184 Qn3 
Q_Q5         N01054 N01144 N01476 Qn1 
Q_Q6         N01060 N01160 N01463 Qn4 
