* source ECE351HW8
Q_Q1         N00245 N00826 N00280 QbreakN 
Q_Q2         N00273 N00280 N00308 Qx 
M_M1         N00245 N00273 N00312 N00312 Mx           
V_V1         N00245 0  DC 15
V_V2         0 N00209  DC 15
I_I1         N00312 N00209 DC 10m
I_I2         N00308 N00209 DC 1m
I_I3         N00280 N00209 DC 39u
R_RC2         N00245 N00273 7.5k 
R_REE3         N00280 N00209 10Meg 
R_REE2         N00308 N00209 10Meg 
R_REE1         N00312 N00209 10Meg 
R_Rs         VIN N00826 1k 
V_V3         VIN 0  AC 1 0
C_C1         N00312 VOUT 1000u 
C_C2         N00308 0 1000u 
R_RL         VOUT 0 1k 
