* source ECE351HW9
E_U1         VO1 0 VALUE {LIMIT(V(N00125,N00129)*1E6,-15V,+15V)}
R_R1         N00125 0 1k 
R_R2         VIN1 N00129 1k 
R_R3         N00129 0 1k 
R_R4         N00129 VO1 10k 
V_V1         VIN1 0  AC 1 0
R_R5         N01013 0 1k 
E_U2         VO2 0 VALUE {LIMIT(V(N01013,N01083)*1E6,-15V,+15V)}
V_V2         VIN2 0  AC 1 0
R_R6         VIN2 N01083 1k 
R_R7         N01083 0 1k 
R_R8         N01083 VO2 10k 
R_R9         VIN2 N01013 10k 
R_R10         N01650 0 1k 
R_R12         VIN3 0 1k 
E_U3         VO3 0 VALUE {LIMIT(V(N01650,VIN3)*1E6,-15V,+15V)}
R_R13         VIN3 VO3 10k 
I_I1         0 VIN3 AC 1  0
E_U4         VO4 0 VALUE {LIMIT(V(VIN4,N02357)*1E6,-15V,+15V)}
R_R16         N02357 0 1k 
R_R15         N03031 N02357 1k 
R_R17         N02357 VO4 10k 
R_R19         N03202 0 1k 
R_R20         N02862 0 1k 
R_R18         N03202 VIN4 1k 
E_U5         N03031 0 VALUE {LIMIT(V(N03202,N02862)*1E6,-15V,+15V)}
V_V4         VIN4 0  AC 1 0
R_R21         N02862 N03031 10k 
R_R22         N03202 VO4 1k 
R_R23         N03549 N03563 10k 
R_R24         N03563 0 10k 
R_R25         N03578 0 10k 
R_R26         N03563 N03578 10k 
R_R27         N03578 VO5 10k 
R_R28         VIN5 N03549 10k 
R_R29         0 N03605 1k 
V_V5         VIN5 0  AC 1 0
E_U6         VO5 0 VALUE {LIMIT(V(N03549,N03605)*1E6,-15V,+15V)}
R_R30         N04361 0 1k 
E_U7         VO6 0 VALUE {LIMIT(V(N04361,N04431)*1E6,-15V,+15V)}
R_R33         N04431 VO6 80k 
R_R31         VIN6 N04431 10k 
V_V6         VIN6 0  AC 1 0
I_I2         0 VIN7 AC 1  0
R_R36         N04999 N05081 11k 
R_R35         VIN7 N04999 5k 
E_U8         VO7 0 VALUE {LIMIT(V(N04945,N04999)*1E6,-15V,+15V)}
R_R34         N04945 0 1k 
I_I3         0 VIN7 DC 5m
R_R38         N05081 0 1k 
D_D1         N05081 VO7 D1N4004 
